US06521643B1
A suspension of 7-(4-methoxypyridin-2-yl)-2-quinolone (130 mg) in phosphorus oxychloride (5 ml) was refluxed for 2 hours. The mixture was evaporated under reduced pressure. The residue was poured into a saturated aqueous sodium hydrogencarbonate solution and extracted with dichloromethane. The organic layer was washed with brine, dried over sodium sulfate and evaporated under reduced pressure to give 2-chloro-7-(4-methoxypyridin-2-yl)quinoline (140mg).

reactant | 7-(4-methoxypyridin-2-yl)-2-quinolone | 130 mg | COC1=CC(=NC=C1)C1=CC=C2C=CC(NC2=C1)=O | C15H12N2O2
reactant | phosphorus oxychloride | 5 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-chloro-7-(4-methoxypyridin-2-yl)quinoline | 140mg | ClC1=NC2=CC(=CC=C2C=C1)C1=NC=CC(=C1)OC | C15H11ClN2O
